US06861428B2
2) Preparation of 3-(2,6-dichlorophenyl)-1-propanol
Lithium aluminum hydride (98.8 mg, 2.60 mmol) was added to THF (5 mL), and under ice-cold stirring, a solution of ethyl 2,6-dichlorocinnamate (319 mg, 1.30 mmol) in THF (5 mL) was added dropwise. The mixture was then stirred at room temperature for 30 minutes. A small amount of a saturated aqueous solution of ammonium chloride was added to the reaction mixture, followed by drying over anhydrous magnesium sulfate. Subsequent to filtration through Celite, the mixture was concentrated under reduced pressure and further, purified by chromatography on a silica gel column (hexane/ethyl acetate=10/1) to yield the title compound as a pale yellow syrupy substance (yield: 46.9%).

reactant | Lithium aluminum hydride | 2.60 mmol, 98.8 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl 2,6-dichlorocinnamate | 1.30 mmol, 319 mg | ClC1=C(C=CC(=O)OCC)C(=CC=C1)Cl | C11H10Cl2O2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 3-(2,6-dichlorophenyl)-1-propanol | yield: 46.9% | ClC1=C(C(=CC=C1)Cl)CCCO | C9H10Cl2O
